US04349560
6.1 g (20 mmoles) of crude 4-chloro-4-(2-methyl-phenyl)-4H-indeno[1,2-b]thiophene were taken up in 30 ml of acetonitrile, 4.1 g (60 mmoles) of imidazole were added and the mixture was heated under reflux for 5 hours. The crude product was then precipitated as a syrup by adding 70 ml of water. The supernatant solution was decanted off and the crude product was taken up in ether. The ether solution was dried and evaporated. The residue was taken up in 100 ml of 2 N hydrochloric acid, the insoluble material was separated off and, after cooling, the base was liberated again with sodium hydroxide solution and extracted with ether. The organic phase was dried over sodium sulphate and concentrated. 4.1 g (62.1% of theory) of 4-(imidazol-1-yl)-4-(2-methyl-phenyl)-4H-indeno[1,2-b]thiophene of melting point 75° C. were obtained.

reactant | 4-chloro-4-(2-methyl-phenyl)-4H-indeno[1,2-b]thiophene | 20 mmoles, 6.1 g | ClC1(C2=CC=CC=C2C=2SC=CC21)C2=C(C=CC=C2)C | C18H13ClS
reactant | imidazole | 60 mmoles, 4.1 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-(imidazol-1-yl)-4-(2-methyl-phenyl)-4H-indeno[1,2-b]thiophene | 4.1 g, 62.1% | N1(C=NC=C1)C1(C2=CC=CC=C2C=2SC=CC21)C2=C(C=CC=C2)C | C21H16N2S
